US07745484B2
Methylcyclobutanone (3.200 g, 38.043 mmol) was dissolved in 200 ml THF and allylmagnesium bromide (190.21 ml, 190.21 mmol) was added in one portion. The mixture was stirred for 4 h at RT, hydrolyzed with water and extracted. The combined organic extracts were dried over MgSO4 and evaporated and purified via glass col. Chrom. (25-75% hex. in EtOAc). 1-Allyl-3-methylcyclobutanol (2.250 g, 46.9% yield) was obtained as a mixture of cis-trans isomers approx 4:1 (where the major compound is the one Me-cis to OH) based on NMR.

reactant | Methylcyclobutanone | 38.043 mmol, 3.200 g | CC1C(CC1)=O | C5H8O
reactant | allylmagnesium bromide | 190.21 mmol, 190.21 ml | C(C=C)[Mg]Br
reactant | water | O | H2O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-Allyl-3-methylcyclobutanol | 2.250 g, 46.9% yield | C(C=C)C1(CC(C1)C)O | C8H14O
